US07304081B2
Step 1. [(2S,3R)-3-phenylpyrrolidin-2-yl]methanol
Borane in tetrahydrofuran (1.0 M, 1.0 mL) was added to (2S,3R)-3-phenylpyrrolidine-2-carboxylic acid (30.0 mg, 0.000157 mol) in tetrahydrofuran (1.0 mL, 0.012 mol) at rt. After stirring for 1 h the solvent was evaporated under reduced pressure and the residue was azeotroped with methanol (3×2 mL) to afford the desired product, which was directly used in next step reaction without further purification.

reactant | Borane | B | BH3
reactant | (2S,3R)-3-phenylpyrrolidine-2-carboxylic acid | 0.000157 mol, 30.0 mg | C1(=CC=CC=C1)[C@@H]1[C@H](NCC1)C(=O)O | C11H13NO2
solvent | tetrahydrofuran | 1.0 M, 1.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.012 mol, 1.0 mL | O1CCCC1 | C4H8O
product | [(2S,3R)-3-phenylpyrrolidin-2-yl]methanol | C1(=CC=CC=C1)[C@@H]1[C@H](NCC1)CO | C11H15NO
